US06566357B1
Preparation of 2-phenoxy-pyrimidine-4-carboxylic acid methyl ester (14):
NaH (3.5 g of a 60% suspension, 87.4 mmol) is added to a solution of phenol (8.23 g, 87.4 mmol) in THF (100 mL) at room temperature. 2-Methanesulfonyl-pyrimidine-4-carboxylic acid methyl ester, 13, (6.3 g, 29.1 mmol) is dissolved in THF (60 mL) and added dropwise to the solution of phenol. The reaction is allowed to stir for 12 hours then quenched by the addition of saturated aqueous NH4Cl. The aqueous phase is extracted with methylene chloride and the combined organic layers are dried, filtered, and concentrated in vacuo to afford a crude oil which is purified over silica (ethyl acetate/hexane 2:3) to afford 1.72 g (25% yield) of the desired product as a white solid.

reactant | NaH | [H-].[Na+]
reactant | phenol | 87.4 mmol, 8.23 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-Methanesulfonyl-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC=C1)S(=O)(=O)C | C7H8N2O4S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-phenoxy-pyrimidine-4-carboxylic acid methyl ester | 1.72 g, 25% yield | COC(=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C12H10N2O3
